US07790895B2
4-Hydroxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester (2.85 g, 10 mmol) was suspended in the mixture of dichloromethane (50 mL) and pyridine (20 mL) at −20° C. The reaction mixture was then treated with trifluoromethanesulfonic anhydride (1.85 mL, 11 mmol). The reaction mixture was then allowed to warm to room temperature and stirred for 3 days. The reaction mixture was then diluted with ethyl acetate and washed saturated copper (II) sulfate solution, water (2×200 ml) and then brine. The organic layer was dried over sodium sulfate and concentrated to yield 4-trifluoromethanesulfonyloxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester as a brown solid.

reactant | 4-Hydroxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | 10 mmol, 2.85 g | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C13H10F3NO3
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 11 mmol, 1.85 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-trifluoromethanesulfonyloxy-7-trifluoromethyl-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1OS(=O)(=O)C(F)(F)F)C(F)(F)F | C14H9F6NO5S
